US07855292B2
A. 3-Bromo-4-chlorobenzyl chloride
To a solution of 3-bromo-4-chlorobenzyl alcohol (9.6 g, 43 mmol) in CH2Cl2 (100 mL) was added Ph3P (17.1 g, 1.5 mmol) and CCl4 (6.3 mL, 65 mmol). After 18 h, the solution was washed with brine (3×100 mL) and passed through a short silica gel column to afford the product as colorless oil (9.14 g, 88%). 1H NMR (400 MHz, CDCl3): 7.65 (d, J=2.1 Hz, 1H), 7.43 (d, J=8.2 Hz, 1H), 7.27 (dd, J=8.3, 2.1 Hz, 1H), 4.51 (s, 3H).

reactant | 3-bromo-4-chlorobenzyl alcohol | 43 mmol, 9.6 g | BrC=1C=C(CO)C=CC1Cl | C7H6BrClO
reactant | Ph3P | 1.5 mmol, 17.1 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | CCl4 | 65 mmol, 6.3 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | 3-Bromo-4-chlorobenzyl chloride | 9.14 g, 88% | BrC=1C=C(CCl)C=CC1Cl | C7H5BrCl2
